* D:\github\progetto-elettronica\SIMULATORE-LT_SPICE\filto-passa-alto-rc-attivo.asc
* Generated by LTspice 26.0.1 for Windows.
C1 filtro in 100n Rser=0.5 Lser=10u
R1 filtro 0 10k
X§U1 filtro N002 +E -E out level2 Avol=1e12 GBW=1e15 Slew=1e15 Ilimit=1e9 Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=1e12 ;§pnba In+)In-)V+)V-)OUT
R2 N002 0 20k
R3 out N002 20k
V1 in 0 AC 1
V2 +E 0 12
V3 -E 0 -12
C2 N003 in1 100n
R4 N003 0 10k
X§U2 N003 N001 +E -E out1 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R5 N001 0 20K
R6 out1 N001 20K
V4 in1 0 AC 1
R7 out1 0 10k
C3 N006 in2 100n
R8 N006 0 10k
X§U3 N006 N004 +E -E N005 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R9 N004 0 20K
R10 N005 N004 20K
V5 in2 0 AC 1
R11 N005 out2 10k
.ac dec 100 1 1000Meg
* .tran 0 69.2m 62.9m 10u
* Av=1+(r3/r2)=2
* Av=1+(r3/r2)=2
* Av=1+(r3/r2)=2
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3 (C:\Users\Riccardo\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
