* D:\github\progetto-elettronica\SIMULATORE-LT_SPICE\filto-passa-alto-rc-passivo.asc
* Generated by LTspice 26.0.1 for Windows.
C1 out in 100n
R1 out 0 10k tol=1 pwr=0.1
V1 in 0 AC 1
V2 in1 0 AC 1
R3 N001 in1 5
L1 N002 N001 100µ Rser=1m
C2 out1 N002 10µ
R2 out1 0 50
C3 out2 in2 100n
R4 out2 0 10k tol=1 pwr=0.1
V3 in2 0 AC 1
R5 out2 out3 10k
.ac dec 100 1 100G
* .tran 0 62.9m 56.6m 10u
.backanno
.end
